US05252540
2.3 g of N-(2,6-dichlorophenylsulfonyl)-2-bromothiazole-4-carboxamide and 1.6 g of sodium methanolate in 45 ml of methanol are refluxed for 12 h. After cooling, the precipitate is filtered off with suction, washed with methanol and then dried under reduced pressure. 1.8 g of N-(2,6-dichlorophenylsulfonyl)-2-methoxythiazole-4-carboxamide with a melting point of 162°-165° C. are obtained. (Active ingredient Example No. 34).

reactant | N-(2,6-dichlorophenylsulfonyl)-2-bromothiazole-4-carboxamide | 2.3 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC(=O)C=1N=C(SC1)Br | C10H5BrCl2N2O3S2
reactant | sodium methanolate | 1.6 g | C[O-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
product | N-(2,6-dichlorophenylsulfonyl)-2-methoxythiazole-4-carboxamide | 1.8 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC(=O)C=1N=C(SC1)OC | C11H8Cl2N2O4S2
